US07704996B2
Step 74.4: 2-Cyano-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester
To a solution of the 2-chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester (0.62 mmol) in DMSO (1.0 mL) are added KCN (0.94 mmol), DABCO (0.19 mmol), and H2O (0.10 mL) at room temperature. The reaction mixture is stirred at room temperature for 0.5 h and the reaction is quenched by the addition of water. The mixture is extracted with AcOEt. The organic extracts are washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo. The resulting residue is purified by silica gel column chromatography to give the titled compound; 1H NMR (CDCl3) δ 0.19-0.20 (m, 2H), 0.21-0.33 (m, 2H), 0.91-0.96 (m, 2H), 1.23-1.33 (m, 3H), 1.72-1.85 (m, 4H), 4.38 (d, 2H), 4.84 (d, 2H), 5.31-5.45 (m, 1H), 9.01 (s, 1H).

reactant | 2-chloro-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester | 0.62 mmol | C(C=C)OC(=O)C=1C(=NC(=NC1)Cl)OCC1CCC2(CC2)CC1 | C17H21ClN2O3
reactant | KCN | 0.94 mmol | [C-]#N.[K+]
reactant | DABCO | 0.19 mmol | C1CN2CCN1CC2 | C6H12N2
reactant | H2O | 0.10 mL | O | H2O
solvent | DMSO | 1.0 mL | CS(=O)C | C2H6OS
product | 2-Cyano-4-(spiro[2.5]oct-6-ylmethoxy)pyrimidine-5-carboxylic acid allyl ester | C(C=C)OC(=O)C=1C(=NC(=NC1)C#N)OCC1CCC2(CC2)CC1 | C18H21N3O3
